US04731090
11.2 g (0.2 mole) of potassium hydroxide in 15 ml of water are added dropwise under nitrogen atmosphere to 22 g (0.2 mole) of 4-aminophenol in 100 ml of diemthylsulfoxide. 36 g (0.2 mole) of 2-chloro-5-(trifluoromethyl)pyridine in 30 ml of dimethylsulfoxide are added dropwise at 25° C. The reaction mixture is stirred for 3 hours at room temperature, then poured into ice-water and extracted with ethyl acetate. The organic phase is dried over sodium sulfate and concentrated by evaporation. The residue is dissolved in ether and the ether solution is extracted with 1 N hydrochloric acid. The acid phase is made alkaline with concentrated NaOH solution and extracted with ether. The ether phase is dried over sodium sulfate and concentrated by evaporation, affording 4-(5-trifluoromethylpyridin-2-yl-oxy)aniline as a brown oil.

reactant | potassium hydroxide | 0.2 mole, 11.2 g | [OH-].[K+]
reactant | 4-aminophenol | 0.2 mole, 22 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | 2-chloro-5-(trifluoromethyl)pyridine | 0.2 mole, 36 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
solvent | water | 15 ml | O | H2O
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 4-(5-trifluoromethylpyridin-2-yl-oxy)aniline | FC(C=1C=CC(=NC1)OC1=CC=C(N)C=C1)(F)F | C12H9F3N2O
